US08980913B2
Step 1: (S)-tert-Butyl((3-(2-(4-formylphenoxy)ethoxy)phenyl)(phenyl)methyl)carbamate
To a stirred solution of (S)-tert-butyl((3-hydroxyphenyl)(phenyl)methyl)-carbamate (1.76 g, 5.9 mmol) in DMF (10 mL) was added cesium carbonate (4.0 g, 12.0 mmol). The reaction mixture was then stirred at room temperature for 20 minutes. 4-(2-Bromoethoxy)benzenecarboxaldehyde (1.35 g, 5.9 mmol) was added and the reaction mixture was stirred at room temperature for 5 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine (×3), dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 0 to 50% ethyl acetate/iso-hexane to afford the title compound (1.6 g, 61%).

reactant | (S)-tert-butyl((3-hydroxyphenyl)(phenyl)methyl)-carbamate | 5.9 mmol, 1.76 g | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C1=CC(=CC=C1)O)=O | C18H21NO3
reactant | cesium carbonate | 12.0 mmol, 4.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(2-Bromoethoxy)benzenecarboxaldehyde | 5.9 mmol, 1.35 g | BrCCOC1=CC=C(C=C1)C=O | C9H9BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-tert-Butyl((3-(2-(4-formylphenoxy)ethoxy)phenyl)(phenyl)methyl)carbamate | 1.6 g, 61% | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C1=CC(=CC=C1)OCCOC1=CC=C(C=C1)C=O)=O | C27H29NO5
